US04341700
Preparation of 5-amino-1-benzyl-4-cyano-1,2,3-triazole
11 Parts of the 5-amino-1-benzyl-4-carbamoyl-1,2,3-triazole obtained are suspended in 50 parts dimethylformamide. At 0°, 15.3 parts phosphorus oxychloride are added dropwise thereto and the mixture is stirred for 15 minutes at room temperature and 15 minutes at 80°. After cooling to 25°, 50 parts 1 N hydrochloric acid are added thereto and the whole is heated to 100° for approximately 5 minutes. On cooling to room temperature the desired product precipitates which is then filtered and dried.

reactant | 5-amino-1-benzyl-4-carbamoyl-1,2,3-triazole | NC1=C(N=NN1CC1=CC=CC=C1)C(N)=O | C10H11N5O
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 5-amino-1-benzyl-4-cyano-1,2,3-triazole | NC1=C(N=NN1CC1=CC=CC=C1)C#N | C10H9N5
